US06198001B1
A 100 ml three-neck reactor equipped with a condenser and a thermometer was filled with 7.32 g (60 mmol) of benzamide, 1.50 g of potassium carbonate, 3.96 g (60 mmol) of potassium hydroxide, 0.3034 g of pyrene, and 25 g of DMSO. Next, the resulting mixture was stirred under oxygen, and then heated to 90° C. Once the reaction temperature reached 90° C., a mixed solution of 2.48 g (20 mmol) of nitrobenzene and 5 g of DMSO was slowly added dropwise over a period of time of 5 to 10 minutes via a syringe. After reacting for 2 hours, a sample was taken out, and dissolved in 2.5 ml of ethyl acetate. Then, moisture of the resulting solution was removed with magnesium sulfate (H2SO4). A quantitative analysis of the product by GC has indicated that 4-nitrosoaniline and 4-nitroaniline were obtained in yields of 14 mole % and 1 mole %, respectively, based on nitrobenzene, and an intermediate N-(4-nitrophenyl)benzamide was also obtained. For the identification of a production of N-(4-nitrophenyl)benzamide, the reaction solution was treated with hexane, added with 5 g of water and 30 g of DMSO, and then left to react at a temperature of 80 to 90° C. for 8 hours. After that, a sample was taken out, and dissolved in 2.5 ml of ethyl acetate. Then, moisture in the resulting solution was removed with magnesium sulfate (H2SO4). A quantitative analysis of the resulting material has shown that 4-nitroaniline was obtained in an yield of 26 mole % based on nitrobenzene.

reactant | benzamide | 60 mmol, 7.32 g | C(C1=CC=CC=C1)(=O)N | C7H7NO
reactant | potassium carbonate | 1.50 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium hydroxide | 60 mmol, 3.96 g | [OH-].[K+]
reactant | pyrene | 0.3034 g | C1=CC=C2C=CC3=CC=CC4=CC=C1C2=C34 | C16H10
reactant | nitrobenzene | 20 mmol, 2.48 g | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
solvent | ethyl acetate | 2.5 ml | C(C)(=O)OCC | C4H8O2
solvent | DMSO | 5 g | CS(=O)C | C2H6OS
solvent | DMSO | 25 g | CS(=O)C | C2H6OS
product | 4-nitroaniline | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
